US08106043B2
N-(4-(Pyrrolidin-3-yl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride:
N-(4-(Pyrrolidin-3-yl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide (0.1264 g, 0.367 mmol) in MeOH (3 mL) was treated with 1M HCl in ether (1.835 mL, 1.835 mmol). The mixture was stirred at room temperature for 5 minutes and was concentrated to give a light yellow solid (0.16 g, quantitative). 1H NMR (DMSO-d6) δ 11.30 (s, 1H), 9.83 (brs, 1H), 9.70 (s, 1H), 9.57 (brs, 1H), 8.70 (s, 1H), 8.15-8.13 (m, 2H), 7.37-7.34 (m, 1H), 7.10-7.00 (m, 3H), 4.74-4.63 (m, 1H), 3.60-3.40 (m, 5H), 3.16-3.05 (m, 3H), 2.26-2.15 (m, 1H), 2.05-1.92 (m, 1H); ESI-MS (m/z, %): 347, 345 (MH+, freebase, 61), 278, 276 (100); HRMS (C17H21N4S2, MH+, freebase): calculated: 345.1202, observed: 345.1195. HPLC purity: 99% by area.

reactant | N-(4-(Pyrrolidin-3-yl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide | 0.367 mmol, 0.1264 g | N1CC(CC1)N1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | C17H20N4S2
reactant | HCl | 1M | Cl | ClH
reactant | ether | 1.835 mmol, 1.835 mL | CCOCC | C4H10O
solvent | MeOH | 3 mL | CO | CH4O
product | N-(4-(Pyrrolidin-3-yl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)thiophene-2-carboximidamide dihydrochloride | Cl.Cl.N1CC(CC1)N1C2=C(SCC1)C=C(C=C2)NC(=N)C=2SC=CC2 | InChI=1S/C17H20N4S2.2ClH/c18-17(15-2-1-8-22-15)20-12-3-4-14-16(10-12)23-9-7-21(14)13-5-6-19-11-13;;/h1-4,8,10,13,19H,5-7,9,11H2,(H2,18,20);2*1H
